US07842688B2
a) tert-Butyl 3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]-4-{4-[4-(5-methoxypyrimidin-4-ylamino)butoxy]phenyl}piperidine-1-carboxylate
The mixture of 0.200 g of tert-butyl 4-[4-(4-aminobutoxy)phenyl]-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate, 0.058 g of 4-chloro-5-methoxypyrimidine, 0.0064 g of (±)-2,2′-bis(diphenylphosphine)-1,1′-binaphthyl, 0.387 g of sodium tert-butoxide and 0.0028 g of dipalladiumtris(dibenzylidenacetone)-chloroform complex in 10 ml of toluene is stirred under argon at 90° C. over 20 hours. The reaction mixture is cooled, admixed with brine (20 ml) and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed successively with water (100 ml) and brine (100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a brown oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.25 (200:20:1 dichloromethane-methanol-conc. ammonia); Rt=4.60.

reactant | tert-butyl 4-[4-(4-aminobutoxy)phenyl]-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate | 0.200 g | NCCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C34H49N3O6
reactant | 4-chloro-5-methoxypyrimidine | 0.058 g | ClC1=NC=NC=C1OC | C5H5ClN2O
reactant | sodium tert-butoxide | 0.387 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | 20 ml | [Cl-].[Na+].O
product | tert-Butyl 3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]-4-{4-[4-(5-methoxypyrimidin-4-ylamino)butoxy]phenyl}piperidine-1-carboxylate | COCCCN1C(CCC2=CC=C(C=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCCNC1=NC=NC=C1OC)C(=O)OC(C)(C)C)=O | C39H53N5O7
